US04673684
To a solution of 424 mg (1.43 mmol) of N-(2-benzhydroxyethyl) piperazine in dry dimethylformamide (2 ml) was added 475 mg (1.15 mmol) of N-[3-[3,5-dimethoxy-4-(β-methoxyethoxymethoxy) phenyl]-2-propenoyl]thiazolidine-2-thione, and the mixture was reacted at room temperature for 2 hours under argon atmosphere. The reaction mixture was concentrated by evaporation under reduced pressure and the residue was subjected to silica gel column chromatography, eluted with chloroform-methanol (100 : 1), to give 588 mg (0.995 mmol) of N-[3[3,5-dimethoxy-4-(β-methoxyethoxymethoxy)phenyl]-2-propenoyl]-N'-(2-benzhydroxyethyl) piperazine.

reactant | N-(2-benzhydroxyethyl) piperazine | 1.43 mmol, 424 mg | C(C1=CC=CC=C1)(C1=CC=CC=C1)OCCN1CCNCC1 | C19H24N2O
reactant | N-[3-[3,5-dimethoxy-4-(β-methoxyethoxymethoxy) phenyl]-2-propenoyl]thiazolidine-2-thione | 1.15 mmol, 475 mg | COC=1C=C(C=C(C1OCOCCOC)OC)C=CC(=O)N1C(SCC1)=S | C18H23NO6S2
solvent | dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
product | N-[3[3,5-dimethoxy-4-(β-methoxyethoxymethoxy)phenyl]-2-propenoyl]-N'-(2-benzhydroxyethyl) piperazine | 0.995 mmol, 588 mg | COC=1C=C(C=C(C1OCOCCOC)OC)C=CC(=O)N1CCN(CC1)CCOC(C1=CC=CC=C1)C1=CC=CC=C1 | C34H42N2O7
